US07820680B2
Step 4: N2-tert-Butyloxycarbonyl-N2-(4-fluorobenzyl)-N1-methoxy-N1-methylglycinamide
To a stirred solution of N-(tert-butoxycarbonyl)-N-(4-fluorobenzyl)glycine (10.5 g, 37.2 mmol) in CH2Cl2 (37 mL) was added N,O-dimethylhydroxylamine hydrochloride (3.62 g, 37.2 mmol). The resulting suspension was treated with N-methylmorpholine (4.08 mL, 37.2 mmol) and cooled to 0° C. The mixture was then treated with a 1 M solution of N,N′-dicyclohexylcarbodiimide in CH2Cl2 (37.2 mL, 37.2 mmol) and was then allowed to warm to ambient temperature under inert atmosphere. After stirring for 66 h, the mixture was filtered, washing the solid residue with excess CH2Cl2. The filtrate was concentrated in vacuo and resuspended in EtOAc. After stirring for 1 h, the mixture was filtered, washing the solids with excess EtOAc. The filtrate was again concentrated in vacuo to give an orange oil. Purification by silica gel chromatography (20% to 60% EtOAc/hexanes) afforded the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.27-7.20 (m, 2H), 7.03-7.01 (m, 2H), 4.52 (d, J=13.6 Hz, 2H), 4.09 (s, 1H), 3.95 (s, 1H), 3.63 (d, J=20.4 Hz, 3H), 3.18 (s, 3H), 1.47 (s, 9H). ES MS (M+1)=327.17.

reactant | N-(tert-butoxycarbonyl)-N-(4-fluorobenzyl)glycine | 37.2 mmol, 10.5 g | C(C)(C)(C)OC(=O)N(CC(=O)O)CC1=CC=C(C=C1)F | C14H18FNO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 37.2 mmol, 3.62 g | Cl.CNOC
reactant | N-methylmorpholine | 37.2 mmol, 4.08 mL | CN1CCOCC1 | C5H11NO
reactant | N,N′-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 37 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 37.2 mmol, 37.2 mL | C(Cl)Cl | CH2Cl2
product | N2-tert-Butyloxycarbonyl-N2-(4-fluorobenzyl)-N1-methoxy-N1-methylglycinamide | C(C)(C)(C)OC(=O)N(CC(=O)N(C)OC)CC1=CC=C(C=C1)F | C16H23FN2O4
